US06277859B1
3-tert-butyldimethylsilyloxy-17-cyclopropylmethyl-4,5α-epoxy-14β-hydroxy-6-oxomorphinan 2
3.49 g of naltrexone hydrochloride was suspended in 10.5 ml of N,N-dimethylformamide. After adding 3.46 g of imidazole, 3.48 g of tert-butyldimethylchlorosilane was added followed by stirring for 35 minutes at room temperature. 30 ml of water and 50 ml of diethyl ether were added to the reaction system followed by separation. The aqueous layer was extracted twice with 30 ml of diethyl ether. The combined extracts were dried over anhydrous sodium sulfate and concentrated. The resulting residue was recrystallized from ethanol to obtain 3.2 g of the target compound (yield: 76%).

reactant | naltrexone hydrochloride | 3.49 g | C1=CC(=C2C3=C1C[C@@H]4[C@]5([C@]3(CCN4CC6CC6)[C@@H](O2)C(=O)CC5)O)O.Cl
reactant | imidazole | 3.46 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylchlorosilane | 3.48 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | water | 30 ml | O | H2O
solvent | N,N-dimethylformamide | 10.5 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 3-tert-butyldimethylsilyloxy-17-cyclopropylmethyl-4,5α-epoxy-14β-hydroxy-6-oxomorphinan | 3.2 g, yield: 76% | [Si](C)(C)(C(C)(C)C)OC=1C=CC=2C[C@@H]3[C@@]4(CCC([C@H]5[C@@]4(C2C1O5)CCN3CC3CC3)=O)O | C26H37NO4Si
